US04188325
A solution of 3-methylthio-4-nitrooxindole (1.58 g, 7 mmol) and N-chlorosuccinimide (1.20 g, 9 mmol) in 100 ml of methylene chloride was stirred at room temperature for 48 hours. The solvent was removed in vacuo, yielding crude 3-chloro-3-methylthio-4-nitrooxindole. The residue was dissolved in 25 ml of tetrahydrofuran and added rapidly to a vigorously stirred slurry of red mercuric oxide (1.52 g, 7 mmol) and boron trifluoride etherate (1.00 g, 7 mmol) in 100 ml of 50 percent aqueous tetrahydrofuran. After stirring for 3 hours, the solution was filtered through a Celite pad which was then washed with copious amounts of chloroform. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated. The residue was chromatographed on silica gel. Elution with chloroform-ethanol (9:1) gave 4-nitroisatin (535 mg, 40%), mp 248°-250° (dec) (recrystallized from ethanol); ir (KBr) 3200 (NH), 1750 (C=O), 1710 (C=O), 1520 (NO2) and 1350 cm-1 (NO2); nmr (DMSO-d6) π-1.30 (1H, b s, NH), 2.20-2.80 (m, 3H, aryl H).

reactant | 3-methylthio-4-nitrooxindole | 7 mmol, 1.58 g | CSC1C(NC2=CC=CC(=C12)[N+](=O)[O-])=O | C9H8N2O3S
reactant | N-chlorosuccinimide | 9 mmol, 1.20 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-3-methylthio-4-nitrooxindole | ClC1(C(NC2=CC=CC(=C12)[N+](=O)[O-])=O)SC | C9H7ClN2O3S
